US07482356B2
Preparation of 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid (14):
To a solution of 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid ethyl ester, 13, (2.7 g, 8.4 mmol) in THF (85 mL) is added aqueous NaOH (42 mL of 1N solution, 42.0 mmol). The solution is stirred for 18 hours at room temperature then diluted with aqueous saturated NaHCO3 and the aqueous phase is extracted twice with CHCl3. The aqueous phase is then acidified to pH 1 with aqueous 1N HCl and extracted twice with CHCl3. The combined organic layers are dried (MgSO4), filtered and concentrated in vacuo to afford 2.3 g of the desired product which is used without further purification.

reactant | 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C14H16N4O3S
reactant | NaOH | 42.0 mmol, 1N, 42 mL | [OH-].[Na+]
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid | 2.3 g | CSC1=NC=CC(=N1)C1=C(C(N2N1CCC2)=O)C(=O)O | C12H12N4O3S
